US07704995B2
To a solution of methyl 3-amino-6-phenylpyrazine-2-carboxylate (1.2 g, 5.26 mmol) in methanol (5 mL) was added 6.0 N aqueous sodium hydroxide (6 mL) at room temperature. The solution was stirred at 50 C. for 3 h. The reaction was neutralized slowly by adding 2.0 N hydrochloric acid until the pH of the solution became in the 2-3 range at 0° C. The solution was extracted with ethyl acetate (50 mL). The organic layer was washed with saturated aqueous sodium chloride (50 mL) and dried over magnesium sulfate. Filtration and concentration at reduced pressure afforded 3-amino-6-phenylpyrazine-2-carboxylic acid (0.59 g, 52% yield): MS (EI) for C11H9O2: 216 (MH+)

reactant | methyl 3-amino-6-phenylpyrazine-2-carboxylate | 5.26 mmol, 1.2 g | NC=1C(=NC(=CN1)C1=CC=CC=C1)C(=O)OC | C12H11N3O2
reactant | sodium hydroxide | 6.0 N, 6 mL | [OH-].[Na+]
reactant | hydrochloric acid | 2.0 N | Cl | ClH
solvent | methanol | 5 mL | CO | CH4O
product | 3-amino-6-phenylpyrazine-2-carboxylic acid | 0.59 g, 52% yield | NC=1C(=NC(=CN1)C1=CC=CC=C1)C(=O)O | C11H9N3O2
